US04029809
Cyanomethyl 2-thiophenesulfonate
Method of preparation: Glycolonitrile is reacted with 2-thiophenesulfonyl chloride using the procedure as described in the previous example, with 2 hours of reaction at 0° C., followed by three hours at room temperature. The reaction mixture separates into two layers; the bottom dark layer is isolated and dissolved in diethyl ether, the solution washed with weak caustic solution and cold water, and the solvent is stripped off under reduced pressure to give the product (in 79% conversion), a green oily liquid, nD24.5 1.535.

reactant | Glycolonitrile | C(CO)#N | C2H3NO
reactant | 2-thiophenesulfonyl chloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Cyanomethyl 2-thiophenesulfonate | S1C(=CC=C1)S(=O)(=O)OCC#N | C6H5NO3S2
